US07265120B2
A solution of ethyl 2-[4-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-5-phenyl-oxazol-3(2H)-yl]-propanoate (3.32 g) in a mixture of 1N aq. NaOH (25 ml) and THF (25 ml) was heated at 50-55° C. for 2 hours. After removal of THF, the mixture was acidified with 1N aq. HCl, extracted with EtOAc, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was recrystallized from a mixture of CHCl3 and n-hexane to give 2-[4-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-5-phenyl-oxazol-3(2H)-yl]propanoic acid as a solid (2.53 g).

reactant | ethyl 2-[4-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-5-phenyl-oxazol-3(2H)-yl]-propanoate | 3.32 g | C(C)(C)N1N=C(C=CC1=O)C=1N(C(OC1C1=CC=CC=C1)=O)C(C(=O)OCC)C | C21H23N3O5
solvent | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-[4-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-5-phenyl-oxazol-3(2H)-yl]propanoic acid | 2.53 g | C(C)(C)N1N=C(C=CC1=O)C=1N(C(OC1C1=CC=CC=C1)=O)C(C(=O)O)C | C19H19N3O5
